US06794519B2
N-Benzyl-N-methyl-ethanolamine (20.73 g), 61.94 g of toluene and 83.41 g of a 30% aqueous solution of NaOH were respectively weighed and placed in a 300-mL four-necked flask. While the mixture was stirred, the flask inside temperature was lowered to 6.8° C. Then, 31.68 g of methanesulfonyl chloride was added dropwise over 3 hours and 17 minutes at a flask inside temperature of 5 to 10° C. Water (33 mL) was added to dissolve the NaCl which had precipitated out in the aqueous phase, and the mixture was separated into the toluene phase and aqueous phase. A toluene solution of N-benzyl-N-methyl-ethanolamine methanesulfonate was thus obtained in a yield of 68.8 mole percent.

reactant | N-Benzyl-N-methyl-ethanolamine | 20.73 g | C(C1=CC=CC=C1)N(CCO)C | C10H15NO
reactant | NaOH | [OH-].[Na+]
reactant | methanesulfonyl chloride | 31.68 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaCl | [Na+].[Cl-]
solvent | Water | 33 mL | O | H2O
solvent | toluene | 61.94 g | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-N-methyl-ethanolamine methanesulfonate | CS(=O)(=O)OCCN(C)CC1=CC=CC=C1 | C11H17NO3S
